US07579370B2
1.1.e) Synthesis of (Z)-4-(prop-1-enyl)furan-2-carbaldehyde
The title compound was synthesized from 4-bromo-furan-2-carboxaldehyde (1.1 g, 6.3 mmol, 1 equiv) and cis-propene boronic acid (0.65 g, 7.5 mmol, 1.2 equiv) using the conditions to synthesize 5-benzyl-furan-2-carbaldehyde, with the exception that the reaction was run in DMF (20 mL). The resulting residue was purified via ISCO Companion (0-25% EtOAc/heptane over 30 min, retention time of product: 23-26 min) to give (Z)-4-(prop-1-enyl)furan-2-carbaldehyde (0.4130 g, 48% yield). LC/MS m/e 136.8 (M+H). 1H NMR (400 MHz, CD3CN) δ (ppm): 9.59 (d, J=0.63 Hz, 1 H), 7.83 (s, 1 H), 7.42 (s, 1 H), 6.23 (dd, J=11.40, 1.68 Hz, 1 H), 5.79-5.89 (m, 1 H), 1.87 (dd, J=7.10, 1.78 Hz, 3 H).

reactant | 4-bromo-furan-2-carboxaldehyde | 6.3 mmol, 1.1 g, 1 equiv | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | cis-propene boronic acid | 7.5 mmol, 0.65 g, 1.2 equiv | C(=C/C)/B(O)O | C3H7BO2
reactant | 5-benzyl-furan-2-carbaldehyde | C(C1=CC=CC=C1)C1=CC=C(O1)C=O | C12H10O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (Z)-4-(prop-1-enyl)furan-2-carbaldehyde | 0.4130 g, 48% yield | C(=C/C)/C=1C=C(OC1)C=O | C8H8O2
